US07241761B2
(b) 2-Methyl-5-piperazin-1-yl-benzothiazole hydrochloride
Prepared in analogy to example 1.6 (d) from 4-(2-methyl-benzothiazol-5-yl)-piperazine-1-carboxylic acid tert.-butyl ester and dioxane saturated with gaseous hydrochloric acid.

reactant | 4-(2-methyl-benzothiazol-5-yl)-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(N=C(S2)C)C1 | C17H23N3O2S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Methyl-5-piperazin-1-yl-benzothiazole hydrochloride | Cl.CC=1SC2=C(N1)C=C(C=C2)N2CCNCC2 | InChI=1S/C12H15N3S.ClH/c1-9-14-11-8-10(2-3-12(11)16-9)15-6-4-13-5-7-15;/h2-3,8,13H,4-7H2,1H3;1H
